US09340546B2
MsCl (393.3 mg, 265.7 μL, 3.433 mmol) was added to a solution of (3R)-tetrahydrofuran-3-ol (275 mg, 3.121 mmol) and Et3N (379.0 mg, 522.0 μL, 3.745 mmol) in DCM (5 mL) at 0° C. and the resulting solution stirred at RT overnight. The reaction mixture was diluted with water (5 mL) and DCM (5 mL) and the layers separated. The aqueous layer was extracted further with DCM (2×5 mL) and the combined organic extracts washed with saturated aqueous sodium hydrogen carbonate solution (1×5 mL), dried over MgSO4 and concentrated in vacuo. The residue was taken up in n-BuOH (5 mL) and 1-(3-chloro-5-fluoro-4-pyridyl)piperazine (1.010 g, 4.682 mmol) was added and the reaction mixture heated at 118° C. overnight. The reaction mixture was cooled to RT and concentrated in vacuo. The residue was purified by column chromatography on silica (24 g column, 0-100% EtOAc/petroleum ether). Product fractions were combined and concentrated in vacuo to leave (S)-1-(3-chloro-5-fluoropyridin-4-yl)-4-(tetrahydrofuran-3-yl)piperazine as an off white solid. MS (ES+) 288.1.

reactant | MsCl | 3.433 mmol, 265.7 μL, 393.3 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (3R)-tetrahydrofuran-3-ol | 3.121 mmol, 275 mg | O1C[C@@H](CC1)O | C4H8O2
reactant | Et3N | 3.745 mmol, 522.0 μL, 379.0 mg | CCN(CC)CC | C6H15N
reactant | 1-(3-chloro-5-fluoro-4-pyridyl)piperazine | 4.682 mmol, 1.010 g | ClC=1C=NC=C(C1N1CCNCC1)F | C9H11ClFN3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 5 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(3-chloro-5-fluoropyridin-4-yl)-4-(tetrahydrofuran-3-yl)piperazine | ClC=1C=NC=C(C1N1CCN(CC1)[C@@H]1COCC1)F | C13H17ClFN3O
